US04562186
[3-(4-Fluorobenzoyl)-1,2,4-oxadiazol-5-yl]acetic acid
A solution of isopropyl[3-(4-fluorobenzoyl)-1,2,4-oxadiazol-5-yl]acetate (6.2 g) in 97% H2SO4 (40 ml) was stirred at room temperature for 15 minutes. The resulting solution was added slowly to a liter of ice water with mechanical stirring. The precipitated solid was collected by filtration and washed with water (5×300 ml). Drying under vacuum gave 4.4 g of a powder. Recrystallization from 25% hexane/acetone gave 2.5 g (47%) of crystals, m.p. 146°-148°.

reactant | isopropyl[3-(4-fluorobenzoyl)-1,2,4-oxadiazol-5-yl]acetate | 6.2 g | C(C)(C)OC(CC1=NC(=NO1)C(C1=CC=C(C=C1)F)=O)=O | C14H13FN2O4
solvent | H2SO4 | 40 ml | OS(=O)(=O)O | H2O4S
product | [3-(4-Fluorobenzoyl)-1,2,4-oxadiazol-5-yl]acetic acid | 4.4 g | FC1=CC=C(C(=O)C2=NOC(=N2)CC(=O)O)C=C1 | C11H7FN2O4
